US09447091B2
b) 3-Bromo-5-nitroaniline
To a solution of 1-bromo-3,5-dinitrobenzene (20 g, 80.97 mmol) in acetic acid (120 ml) at 90° C. was added iron powder (11.3 g, 202.4 mmol, 2.5 eq) slowly portionwise over a period of 30 min (caution: highly exothermic reaction). After completion of the addition, the mixture was quenched by the addition of crushed ice. The precipitate formed was filtered and was washed with cold water to obtain orange solid. The solid was dried under vacuum to give the product in 80% yield (14 g). 1H NMR (300 MHz, CDCl3): δ 10.55 (br s, 2H), 8.46 (s, 1H), 8.19 (s, 1H), 8.02 (s, 1H).

reactant | 1-bromo-3,5-dinitrobenzene | 80.97 mmol, 20 g | BrC1=CC(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-] | C6H3BrN2O4
solvent | acetic acid | 120 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 202.4 mmol, 11.3 g, 2.5 eq | [Fe] | Fe
product | 3-Bromo-5-nitroaniline | 80% yield | BrC=1C=C(N)C=C(C1)[N+](=O)[O-] | C6H5BrN2O2
